US08084474B2
Step 1: Preparation of 2-methyl-2-nitro-1,3-propanediol ditriflate:
To a solution of triflic anhydride (16.5 ml, 0.1 mol) in chloroform (50 ml) is added a solution of 2-methyl-2-nitro-1,3-propanediol (6.75 g, 0.05 mol) and pyridine (8.85 ml, 0.11 mol) in chloroform (50 ml) with external cooling to ensure a temperature of between 0° and 5° C. during the addition. After the addition the cooling bath is removed and the reaction stirred for 18 hours at ambient temperature. The reaction mixture is transferred to a separating funnel and washed with water. The organic layer is dried (Na2SO4), filtered and evaporated to dryness. The crude product is purified by chromatography using a 4:1 mixture of Hexane:Ethyl acetate as eluant; the product is obtained as a solid with melting point 50-52° C.

reactant | triflic anhydride | 0.1 mol, 16.5 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-methyl-2-nitro-1,3-propanediol | 0.05 mol, 6.75 g | CC(CO)(CO)[N+](=O)[O-] | C4H9NO4
reactant | pyridine | 0.11 mol, 8.85 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-2-nitro-1,3-propanediol ditriflate | S(=O)(=O)(C(F)(F)F)OCC(COS(=O)(=O)C(F)(F)F)([N+](=O)[O-])C | C6H7F6NO8S2
